US09328070B2
5-Bromopicolinic acid (200 mg, 0.99 mmol) was dissolved in dioxane (2 ml) and Hunig's Base (520 μl, 2.97 mmol, 3 equiv.), TBTU (350 mg, 1.09 mmol, 1.1 equiv.) and tert-butyl amine (124 μl, 1.19 mmol, 1.2 equiv.) were added at room temperature. The mixture was stirred for 16 hours at room temperature. The reaction mixture was evaporated and extracted saturated NaHCO3 solution and two times with a small volume of dichloromethane. The crude product was purified by flash chromatography by directly loading the dichloromethane layers onto a silica gel column and eluting with an ethyl acetate:heptane gradient 0:100 to 50:50. The desired 5-bromo-pyridine-2-carboxylic acid tert-butylamide (235 mg, 92% yield) was obtained as a colorless oil, MS: m/e=257.0/259.0 (M+H+).

reactant | 5-Bromopicolinic acid | 0.99 mmol, 200 mg | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | Hunig's Base | 2.97 mmol, 520 μl, 3 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1.09 mmol, 350 mg, 1.1 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | tert-butyl amine | 1.19 mmol, 124 μl, 1.2 equiv. | C(C)(C)(C)N | C4H11N
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 5-bromo-pyridine-2-carboxylic acid tert-butylamide | 235 mg, 92% yield | C(C)(C)(C)NC(=O)C1=NC=C(C=C1)Br | C10H13BrN2O
